US08389511B2
tert-Butyl (3R)-3-{isopropyl[(4-(4-methoxybutyl)-2,7-dimethyl-3-oxo-2-{[(pyrrolidin-1-ylcarbonyl)oxy]methyl}-3,4-dihydro-2H-1,4-benzoxazin-6-yl)carbonyl]amino}piperidine-1-carboxylate
To a solution of tert-butyl (3R)-3-[{[2-(hydroxymethyl)-4-(4-methoxybutyl)-2,7-dimethyl-3-oxo-3,4-dihydro-2H-1,4-benzoxazin-6-yl]carbonyl}(isopropyl)amino]piperidine-1-carboxylate (60 mg), N,N′-carbonyldiimidazole (20 mg) in tetrahydrofuran (1 ml) was added diisopropylethylamine (95 μl), and the mixture was stirred at room temperature for one hour. To the reaction mixture was added pyrrolidine (10 μl), and the mixture was stirred at room temperature overnight. Water was added to the reaction mixture, and extracted with chloroform. The organic layer was washed with a saturated aqueous sodium chloride solution, dried over sodium sulfate, filtered, and concentrated under reduced pressure. The obtained residue was purified by silica gel column chromatography (hexane/ethyl acetate) to give the title compound (59 mg).

reactant | tert-butyl (3R)-3-[{[2-(hydroxymethyl)-4-(4-methoxybutyl)-2,7-dimethyl-3-oxo-3,4-dihydro-2H-1,4-benzoxazin-6-yl]carbonyl}(isopropyl)amino]piperidine-1-carboxylate | 60 mg | OCC1(OC2=C(N(C1=O)CCCCOC)C=C(C(=C2)C)C(=O)N([C@H]2CN(CCC2)C(=O)OC(C)(C)C)C(C)C)C | C30H47N3O7
reactant | diisopropylethylamine | 95 μl | C(C)(C)N(CC)C(C)C | C8H19N
reactant | pyrrolidine | 10 μl | N1CCCC1 | C4H9N
reactant | Water | O | H2O
solvent | tetrahydrofuran | 1 ml | O1CCCC1 | C4H8O
product | tert-Butyl (3R)-3-{isopropyl[(4-(4-methoxybutyl)-2,7-dimethyl-3-oxo-2-{[(pyrrolidin-1-ylcarbonyl)oxy]methyl}-3,4-dihydro-2H-1,4-benzoxazin-6-yl)carbonyl]amino}piperidine-1-carboxylate | 59 mg | C(C)(C)N([C@H]1CN(CCC1)C(=O)OC(C)(C)C)C(=O)C=1C(=CC2=C(N(C(C(O2)(COC(=O)N2CCCC2)C)=O)CCCCOC)C1)C | C35H54N4O8
